US04038405
Preparation of 4-(4-chlorophenyl)-3-trifluoromethyl-1,2,4-triazole
Prepared from ethyl-N-(4-chlorophenyl)formimidate, ethyl trifluoroacetate and hydrazine hydrate using the method of Example 1, in 50% yield m.p. 108° (from ethanol/water). (Found: C, 44.03%; H, 2.11%; Cl, 14.00%; F, 23.2%; N, 16.82%. C9H5ClF3N3 requires C, 43.66%; H, 2.04%; Cl, 14.32%; F, 23.0%; N 16.97%) δ(CDCl3): 8.37 (1H, s); 7.50 (4H, m). m/e, 247 and 249.

reactant | ethyl-N-(4-chlorophenyl)formimidate | C(C)OC=NC1=CC=C(C=C1)Cl | C9H10ClNO
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | hydrazine hydrate | O.NN
solvent | ethanol water | C(C)O.O
product | 4-(4-chlorophenyl)-3-trifluoromethyl-1,2,4-triazole | 50% yield | ClC1=CC=C(C=C1)N1C(=NN=C1)C(F)(F)F | C9H5ClF3N3
